US05066680
Sodium borohydride (21.96 g) was added portionwise to a solution of 4-acetylaminomethyl-1-ethylpyridinium iodide (44.43 g) in methanol (400 ml) below 20° C. and the mixture was stirred at 75° C. for 3 hours. The mixture was evaporated in vacuo and the residue was poured into 0.7N aqueous solution of sodium hydroxide (115 ml). The mixture was extracted with methylene chloride. The extracts were washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by vacuum distillation to give 4-acetylaminomethyl-1-ethyl-1,2,3,6-tetrahydropyridine (23.38 g).

reactant | Sodium borohydride | 21.96 g | [BH4-].[Na+]
reactant | 4-acetylaminomethyl-1-ethylpyridinium iodide | 44.43 g | [I-].C(C)(=O)NCC1=CC=[N+](C=C1)CC
solvent | methanol | 400 ml | CO | CH4O
product | 4-acetylaminomethyl-1-ethyl-1,2,3,6-tetrahydropyridine | 23.38 g | C(C)(=O)NCC=1CCN(CC1)CC | C10H18N2O
